US05302720
Reaction of N-(4'-methoxy-2-biphenylyl)thiourea (14.7 g) with methyliodide (9.3 g) in methanol (60 ml) at gentle reflux on a hot water bath for 3 hours gave 1-(4'-methoxy-2-biphenylyl)-2-methyl-2-thiopseudourea hydroiodide as a semisolid. Reaction of the above hydroiodide (8 g) in dichloromethane (100 ml) with 10% aqueous sodium hydroxide solution (25 ml) at 0° C. gave 1-(4'-methoxy-2-biphenylyl)-2-methyl-2-thiopseudourea as a pale yellow solid (m.p. 94°-96° C.).

reactant | N-(4'-methoxy-2-biphenylyl)thiourea | 14.7 g | COC1=CC=C(C=C1)C1=C(C=CC=C1)NC(=S)N | C14H14N2OS
reactant | methyliodide | 9.3 g | CI | CH3I
solvent | methanol | 60 ml | CO | CH4O
product | 1-(4'-methoxy-2-biphenylyl)-2-methyl-2-thiopseudourea hydroiodide | I.COC1=CC=C(C=C1)C1=C(C=CC=C1)NC(SC)=N | InChI=1S/C15H16N2OS.HI/c1-18-12-9-7-11(8-10-12)13-5-3-4-6-14(13)17-15(16)19-2;/h3-10H,1-2H3,(H2,16,17);1H
